US07319153B2
Preparation of pentacene-6,13-dione.
A solution of 62.7 grams (0.559 mmoles, 1.0 equivalents) of cyclohexan-1,4-dione and 150 grams of o-phthalaldehyde (1.12 mmoles, 2.0 equivalents) in 2000 mL of ethanol was heat to 28° C. To this solution was added 220 mL of a 1M aqueous solution of sodium hydroxide. The reaction temperature increased to 47° C. during the addition. The mixture was then heated at 40° C. for 4 hours. The mixture was cooled and a yellow solid precipitate was collected. The solid was stirred in 2000 mL of N,N-dimethylformamide and heated to 50° C. for 2 hours. The mixture was cooled to room temperature (i.e., 20° C. to 25° C.) and the yellow solid was collected and washed with N,N-dimethylformamide, then with acetone and dried to give 108.3 grams (62 mole percent yield) of a bright yellow solid.

reactant | cyclohexan-1,4-dione | 0.559 mmoles, 62.7 grams, 1.0 equivalents | C1(CCC(CC1)=O)=O | C6H8O2
reactant | o-phthalaldehyde | 1.12 mmoles, 150 grams, 2.0 equivalents | C1=CC=C(C(=C1)C=O)C=O | C8H6O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 2000 mL | C(C)O | C2H6O
product | pentacene-6,13-dione | C1=CC=CC2=CC=3C(C4=CC5=CC=CC=C5C=C4C(C3C=C12)=O)=O | C22H12O2
